US05283335
Preparation of 3,4-Dihydro-1H-2-benzopyran-6,7-dicarboxylic anhydride
A mixture of 3,4-dihydro-1H-2-benzopyran-6,7-dicarboxylic acid (7.28 g, 32.8 mmol) and acetic anhydride is stirred for 3.5 hours at 100° C., allowed to stand overnight at room temperature and filtered. The filter cake is washed with ether and dried to give the title product as a white solid (5.53 g, 82.7%). Recrystallization gives mp 156°-158° C.

reactant | 3,4-dihydro-1H-2-benzopyran-6,7-dicarboxylic acid | 32.8 mmol, 7.28 g | C1OCCC2=C1C=C(C(=C2)C(=O)O)C(=O)O | C11H10O5
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 3,4-Dihydro-1H-2-benzopyran-6,7-dicarboxylic anhydride | 5.53 g, 82.7% | C1OCCC2=C1C=C1C(=C2)C(=O)OC1=O | C11H8O4
